US07541372B2
4-{3-Methoxy-4-[5-(3-phenyl-5-pyrazol-1-yl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-morpholine
As described for example 106, 4-{4-[5-(5-chloro-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-3-methoxy-phenyl}-morpholine (100 mg, 0.23 mmol) using pyrazole instead of dimethylamine hydrochloride was converted to the title compound (85 mg, 79%) which was obtained as an off-white solid. MS: m/e=471.3 [M+H]+.

reactant | 4-{4-[5-(5-chloro-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-3-methoxy-phenyl}-morpholine | 0.23 mmol, 100 mg | ClC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C(O1)C1=C(C=C(C=C1)N1CCOCC1)OC | C22H19ClN4O4
reactant | pyrazole | N1N=CC=C1 | C3H4N2
product | 4-{3-Methoxy-4-[5-(3-phenyl-5-pyrazol-1-yl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-morpholine | 85 mg, 79% | COC=1C=C(C=CC1C=1OC(=NN1)C=1C(=NOC1N1N=CC=C1)C1=CC=CC=C1)N1CCOCC1 | C25H22N6O4
